US07759369B2
(5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)boronic acid
As for reaction 1, using 90.5 g 4-chloro-1-{[(4-chloro-2-fluorophenyl)methyl]oxy}-2-iodobenzene, 228 ml isopropylmagnesium chloride and 47.42 g trimethyl borate. Yield 66.8 g. NMR showed trace impurities. LCMS OK.

reactant | 4-chloro-1-{[(4-chloro-2-fluorophenyl)methyl]oxy}-2-iodobenzene | 90.5 g | ClC1=CC(=C(C=C1)OCC1=C(C=C(C=C1)Cl)F)I | C13H8Cl2FIO
reactant | isopropylmagnesium chloride | 228 ml | C(C)(C)[Mg]Cl
reactant | trimethyl borate | 47.42 g | B(OC)(OC)OC | C3H9BO3
product | (5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)boronic acid | ClC=1C=CC(=C(C1)B(O)O)OCC1=C(C=C(C=C1)Cl)F | C13H10BCl2FO3
